US04981963
Preparation of N,N'-diphenyloxamide
Aniline (50 ml, 0.549 mol) and N,N'-diacetyloxamide (5 g, 0.029 mol) are charged into a three-necked flask equipped with a condenser, a magnetic stirrer, an inlet tube for nitrogen and a thermometer. The temperature is brought to 50° C. while vigorously stirring and after 2 hours the reaction is stopped by removing the heating bath.

reactant | Aniline | 0.549 mol, 50 ml | NC1=CC=CC=C1 | C6H7N
reactant | N,N'-diacetyloxamide | 0.029 mol, 5 g | C(C)(=O)NC(=O)C(=O)NC(C)=O | C6H8N2O4
product | N,N'-diphenyloxamide | C1(=CC=CC=C1)NC(=O)C(=O)NC1=CC=CC=C1 | C14H12N2O2
